### PR TITLE
feat(ErdosProblems): 1102

### LINKED ISSUE #1299: Erdős Problem 1102
### What is the conjecture

https://www.erdosproblems.com/1102

  We say that $A\subseteq \mathbb{N}$ has property $P$ if, for all $n\geq 1$, there are only finitely many $a\in A$ such that $n+a$ is squarefree.We say that $A$ has property $Q$ if there are infinitely many $n$ such that $n+a$ is squarefree for all $a<n$. How fast must sequences $A=\\{a_1<a_2<\cdots\\}$ with properties $P$ or $Q$ increase?

Status:open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by shamEiNew**
This PR attempts to add Erdos Problem [1102](https://www.erdosproblems.com/1102). The problem seems to be solved as per a recent [article ](https://arxiv.org/pdf/2512.01087).

Problem statement 
We say that $A\subseteq N$ has property $P$ if, for all $n≥1$, there are only finitely many $a\in A$ such that $n+a$ is squarefree.

We say that $A$ has property $Q$ if there are infinitely many n such that $n+a$ is squarefree for all $a<n$.

How fast must sequences $$A = \set  {a_1 < a_2 \cdots }  $$ with properties $P$ or $Q$ increase? The task is to determine lower bounds for this monotonic sequence.

Closes #1299

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1102.lean [hunk 1]
```diff
@@ -0,0 +1,71 @@
...
+-/
+
+namespace Erdos1102
+
+/--
+Property P : A set $A ⊆ ℕ $ has property P, if for all $n ≥ 1$ the set
+$ \{a ∈ A | n + a is squarafree  \}$.
+-/
+
+def HasPropertyP (A : Set ℕ) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
def HasPropertyP (A : Set ℕ) : Prop :=
```

File: FormalConjectures/ErdosProblems/1102.lean [hunk 2]
```diff
@@ -0,0 +1,71 @@
...
+# Erdős Problem 1102
+
+*Reference:* [erdosproblems.com/1102](https://www.erdosproblems.com/1102)
+-/
+
+namespace Erdos1102
+
+/--
+Property P : A set $A ⊆ ℕ $ has property P, if for all $n ≥ 1$ the set
+$ \{a ∈ A | n + a is squarafree  \}$.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]: This sentence is incomplete

File: FormalConjectures/ErdosProblems/1102.lean [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+
+def HasPropertyP (A : Set ℕ) : Prop :=
+  ∀ n ≥ 1, {a ∈ A | Squarefree (n + a)}.Finite
+
+/--
+Property Q : A set $A ⊆ ℕ $ has property Q, if for all $n ≥ 1$ the set
+$\{a ∈ ℕ  | ∀ a ∈ A, n > a and n + a is squarafree  \}$.
+-/
+
+def HasPropertyQ (A : Set ℕ): Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]: Same here

File: FormalConjectures/ErdosProblems/1102.lean [hunk 4]
```diff
@@ -0,0 +1,71 @@
...
+def Aset (A : ℕ → ℕ) : Set ℕ :=
+  {x : ℕ | ∃ n, A n = x}
+
+/--
+Given a strictly increasing sequence `A : ℕ → ℕ` with `P` (resp. `Q`),
+characterize lower bounds on its growth, i.e. find explicit functions `f` such that
+for all sufficiently large `n`, we have `f n ≤ A n`.
+
+The problem seems to be solved based on this recent article by Terence Tao and
+Wouter Van Doorn in this [paper](https://arxiv.org/pdf/2512.01087)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
Wouter van Doorn in this [paper](https://arxiv.org/pdf/2512.01087)
```

File: FormalConjectures/ErdosProblems/1102.lean [hunk 5]
```diff
@@ -0,0 +1,71 @@
...
+
+-/
+
+@[category research solved, AMS 11]
+theorem erdos_1102.HasPropertyP (A : ℕ → ℕ ): ∀ A : ℕ → ℕ, ∃ f : ℕ → ℝ,
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]: Why is `A` duplicated?

File: FormalConjectures/ErdosProblems/1102.lean [hunk 6]
```diff
@@ -0,0 +1,71 @@
...
+Given a strictly increasing sequence `A : ℕ → ℕ` with `P` (resp. `Q`),
+characterize lower bounds on its growth, i.e. find explicit functions `f` such that
+for all sufficiently large `n`, we have `f n ≤ A n`.
+
+The problem seems to be solved based on this recent article by Terence Tao and
+Wouter Van Doorn in this [paper](https://arxiv.org/pdf/2512.01087)
+
+-/
+
+@[category research solved, AMS 11]
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean:73]:
```suggestion
-/
@[category research solved, AMS 11]
```

File: FormalConjectures/ErdosProblems/1102.lean [hunk 7]
```diff
@@ -0,0 +1,71 @@
...
+theorem erdos_1102.HasPropertyP (A : ℕ → ℕ ): ∀ A : ℕ → ℕ, ∃ f : ℕ → ℝ,
+  IsStrictlyIncreasing A → HasPropertyP (Aset A)  → ∃ N, ∀ n ≥ N, (A n : ℝ) ≥ f n := by
+  sorry
+
+@[category research solved, AMS 11]
+theorem erdos_1102.HasPropertyQ (A : ℕ → ℕ ) : ∀ A : ℕ → ℕ, ∃ (f : ℕ → ℝ),
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]: Can you add a description here too?

File: FormalConjectures/ErdosProblems/1102.lean [hunk 8]
```diff
@@ -0,0 +1,75 @@
...
+# Erdős Problem 1102
+
+*Reference:* [erdosproblems.com/1102](https://www.erdosproblems.com/1102)
+-/
+
+namespace Erdos1102
+
+/--
+Property P : A set $A ⊆ ℕ $ has property P, if for all $n ≥ 1$ the set
+$ \{a ∈ A | n + a is squarafree \}$ is finite.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
$ \{a ∈ A | n + a\text{ is squarefree}\}$ is finite.
```
Same below

File: FormalConjectures/ErdosProblems/1102.lean [hunk 9]
```diff
@@ -0,0 +1,75 @@
...
+-/
+def HasPropertyP (A : Set ℕ) : Prop :=
+  ∀ n ≥ 1, {a ∈ A | Squarefree (n + a)}.Finite
+
+/--
+Property Q : A set $A ⊆ ℕ $ has property Q, if the set
+$\{n ∈ ℕ  | ∀ a ∈ A, n > a implies n + a is squarafree \}$ is infinite.
+-/
+def HasPropertyQ (A : Set ℕ): Prop :=
+  {n : ℕ | ∀ a ∈ A, a < n →  Squarefree (n + a)}.Infinite
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
  {n : ℕ | ∀ a ∈ A, a < n → Squarefree (n + a)}.Infinite
```

File: FormalConjectures/ErdosProblems/1102.lean [hunk 10]
```diff
@@ -0,0 +1,75 @@
...
+
+def IsStrictlyIncreasing (u : ℕ → ℕ ) : Prop :=
+  ∀ n : ℕ, u n < u (n + 1)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]: Please use `StrictMono` instead

File: FormalConjectures/ErdosProblems/1102.lean [hunk 11]
```diff
@@ -0,0 +1,75 @@
...
+
+def Aset (A : ℕ → ℕ) : Set ℕ :=
+  {x : ℕ | ∃ n, A n = x}
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]: Please use `Set.range` instead

File: FormalConjectures/ErdosProblems/1102.lean [hunk 12]
```diff
@@ -0,0 +1,75 @@
...
+Given a strictly increasing sequence `A : ℕ → ℕ` with `P`,
+characterize lower bounds on its growth, i.e. find explicit functions `f` such that
+for all sufficiently large `n`, we have `f n ≤ A n`.
+
+The problem appears to have been solved in a recent [paper](https://arxiv.org/pdf/2512.01087)
+by Terence Tao and Wouter van Doorn.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1102.HasPropertyP (A : ℕ → ℕ )(h_inc : IsStrictlyIncreasing A)
+  (hP : HasPropertyP (Aset A)): ∃ f : ℕ → ℝ, ∃ N, ∀ n ≥ N, (A n : ℝ) ≥ f n := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
theorem erdos_1102.HasPropertyP (A : ℕ → ℕ) (h_inc : IsStrictlyIncreasing A)
  (hP : HasPropertyP (Aset A)) : ∃ f : ℕ → ℝ, ∃ N, ∀ n ≥ N, (A n : ℝ) ≥ f n := by
```
Same below

Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]: This statement is unfortunately trivial: One can set `f := A` or even `f := 0`. You need to give explicit lower bounds. Maybe read the Tao-vD paper?

Comment (shamEiNew) [reply FormalConjectures/ErdosProblems/1102.lean]: I had the same thought I'll update the theorems to include the bounds in the paper

File: FormalConjectures/ErdosProblems/1102.lean [hunk 13]
```diff
@@ -0,0 +1,75 @@
...
+$ \{a ∈ A | n + a is squarafree \}$ is finite.
+-/
+def HasPropertyP (A : Set ℕ) : Prop :=
+  ∀ n ≥ 1, {a ∈ A | Squarefree (n + a)}.Finite
+
+/--
+Property Q : A set $A ⊆ ℕ $ has property Q, if the set
+$\{n ∈ ℕ  | ∀ a ∈ A, n > a implies n + a is squarafree \}$ is infinite.
+-/
+def HasPropertyQ (A : Set ℕ): Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
def HasPropertyQ (A : Set ℕ) : Prop :=
```

File: FormalConjectures/ErdosProblems/1102.lean [hunk 14]
```diff
@@ -0,0 +1,75 @@
...
+/--
+Given a strictly increasing sequence `A : ℕ → ℕ` with `P`,
+characterize lower bounds on its growth, i.e. find explicit functions `f` such that
+for all sufficiently large `n`, we have `f n ≤ A n`.
+
+The problem appears to have been solved in a recent [paper](https://arxiv.org/pdf/2512.01087)
+by Terence Tao and Wouter van Doorn.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1102.HasPropertyP (A : ℕ → ℕ )(h_inc : IsStrictlyIncreasing A)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
theorem erdos_1102.hasPropertyP (A : ℕ → ℕ )(h_inc : IsStrictlyIncreasing A)
```
Same below

File: FormalConjectures/ErdosProblems/1102.lean (hunk 8 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1102.lean]: You haven't fixed this

File: FormalConjectures/ErdosProblems/1102.lean [hunk 15]
```diff
@@ -0,0 +1,91 @@
...
+If `A = {a₁ < a₂ < …}` has property P,
+then `A` has natural density `0`.
+Equivalently, `(a_j / j) → ∞` as `j → ∞`.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1102.density_zero_of_P
+  (A : ℕ → ℕ) (h_inc : StrictMono A)
+  (hP : HasPropertyP (range A)) :
+  ∀ M : ℝ, ∃ N, ∀ j ≥ N, (A j : ℝ) / j ≥ M := by
+  sorry
```
Comment (eric-wieser) [inline FormalConjectures/ErdosProblems/1102.lean]: Please fix the indentation to match standard lean style (statements indented at least 4, proofs indented 2); here and below

File: FormalConjectures/ErdosProblems/1102.lean (hunk 8 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1102.lean]: You still haven't fixed this, and there's a similar issue below

File: FormalConjectures/ErdosProblems/1102.lean [hunk 16]
```diff
@@ -28,14 +28,14 @@ namespace Erdos1102
...
-$ \{a ∈ A | n + a is squarafree\}$ is finite.
+$ \{a ∈ A | n + a\text{ is squarefree}\}$ is finite.
 -/
 def HasPropertyP (A : Set ℕ) : Prop :=
   ∀ n ≥ 1, {a ∈ A | Squarefree (n + a)}.Finite
 
 /--
 Property Q : A set $A ⊆ ℕ $ has property Q, if the set
-$\{n ∈ ℕ  | ∀ a ∈ A, n > a implies n + a is squarafree\}$ is infinite.
+$\{n ∈ ℕ  | ∀ a ∈ A, n > a implies n + a\text{ is squarefree}\}$ is infinite.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
$\{n ∈ ℕ  | ∀ a ∈ A, n > a\text{ implies }n + a\text{ is squarefree}\}$ is infinite.
```

File: FormalConjectures/ErdosProblems/1102.lean (hunk 8 above)
Comment (shamEiNew) [reply FormalConjectures/ErdosProblems/1102.lean]: ah sorry,  I missed this twice. It’s fixed now.

File: FormalConjectures/ErdosProblems/1102.lean [hunk 17]
```diff
@@ -0,0 +1,92 @@
...
+If `A = {a₁ < a₂ < …}` has property P,
+then `A` has natural density `0`.
+Equivalently, `(a_j / j) → ∞` as `j → ∞`.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1102.density_zero_of_P
+    (A : ℕ → ℕ)
+    (h_inc : StrictMono A)
+    (hP : HasPropertyP (range A)) :
+    ∀ M : ℝ, ∃ N, ∀ j ≥ N, (A j : ℝ) / (j : ℝ) ≥ M := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
    Tendsto (fun j => (A j / j : ℝ)) atTop atTop := by
```

File: FormalConjectures/ErdosProblems/1102.lean [hunk 18]
```diff
@@ -0,0 +1,92 @@
...
+  sorry
+
+/--
+Every sequence with property Q has upper density at most `6 / π^2`.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1102.upper_density_Q
+    (A : ℕ → ℕ) (h_inc : StrictMono A)
+    (hQ : HasPropertyQ (range A)) :
+    limsup (fun j ↦ (j : ℕ ) / (A j)) atTop ≤ (6 / Real.pi^2) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
    limsup (fun j : ℕ ↦ j / A j) atTop ≤ 6 / Real.pi^2 := by
```

File: FormalConjectures/ErdosProblems/1102.lean [hunk 19]
```diff
@@ -0,0 +1,92 @@
...
+  sorry
+
+/--
+There exists an infinite sequence $A = {a₁ < a₂ < …} ⊂ \mathsf{SF}$ where
+$\mathsf{SF} := \mathbb{N} \setminus \bigcup_{p} p^{2}\mathbb{N}$, i.e. the set of
+squarefree numbers. The set `A` has property `Q` that has natural density `6 / π^2`.
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
squarefree numbers. The set `A` has property `Q` and natural density `6 / π^2`.
```

File: FormalConjectures/ErdosProblems/1102.lean [hunk 20]
```diff
@@ -0,0 +1,92 @@
...
+Equivalently, `(j / a_j) → 6/π^2` as `j → ∞`.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1102.lower_density_Q_exists :
+    ∃ A : ℕ → ℕ, StrictMono A ∧
+    HasPropertyQ (range A) ∧
+    Tendsto (fun j ↦ (j : ℕ) / ((A j) : ℝ )) atTop (𝓝 (6 / Real.pi^2)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]: Your formal statement doesn't contain anything about squarefree numbers

Comment (shamEiNew) [reply FormalConjectures/ErdosProblems/1102.lean]: In the latest commit added `(∀ j, Squarefree (A j))` as part of hypothesis

File: FormalConjectures/ErdosProblems/1102.lean [hunk 21]
```diff
@@ -0,0 +1,93 @@
...
+$\mathsf{SF} := \mathbb{N} \setminus \bigcup_{p} p^{2}\mathbb{N}$, i.e. the set of
+squarefree numbers. The set `A` has property `Q` and natural density `6 / π^2`.
+Equivalently, `(j / a_j) → 6/π^2` as `j → ∞`.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1102.lower_density_Q_exists :
+    ∃ A : ℕ → ℕ, StrictMono A ∧
+    (∀ j, Squarefree (A j)) ∧
+    HasPropertyQ (range A) ∧
+    Tendsto (fun j ↦ (j : ℕ) / ((A j) : ℝ )) atTop (𝓝 (6 / Real.pi^2)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
    Tendsto (fun j : ℕ ↦ (j / A j : ℝ)) atTop (𝓝 (6 / Real.pi^2)) := by
```

File: FormalConjectures/ErdosProblems/1102.lean [hunk 22]
```diff
@@ -0,0 +1,93 @@
...
+Conversely, for any function `f : ℕ → ℕ` that goes to infinity,
+there exists a strictly increasing sequence `A = {a₁ < a₂ < …}`
+with property P such that `(a_j / j) ≤ f(j)` for all `j`.
+-/
+@[category research solved, AMS 11]
+theorem erdos_1102.exists_sequence_with_P
+    (f : ℕ → ℕ) (h_inf : Tendsto f atTop atTop) :
+    ∃ A : ℕ → ℕ, StrictMono A ∧
+    HasPropertyP (range A) ∧
+    ∀ j : ℕ, (A j : ℝ) / j ≤ f j := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean:67]: This isn't true, right? What if `f 1 = f 2 = 0`? Then `A 1 = A 2 = 0`, which contradicts strict monotonicity. Where did you get that statement from? Is it
> In particular they show that any sequence with property P has density 0, but can have density going to 0 arbitrarily slowly.

from https://www.erdosproblems.com/1102 ? If so, you need to sprinkle in some eventuality
```suggestion
/--
Conversely, for any function `f : ℕ → ℕ` that goes to infinity,
there exists a strictly increasing sequence `A = {a₁ < a₂ < …}`
with property P such that `(a_j / j) ≤ f(j)` for all `j`.
-/
@[category research solved, AMS 11]
theorem erdos_1102.exists_sequence_with_P
    (f : ℕ → ℕ) (h_inf : Tendsto f atTop atTop) :
    ∃ A : ℕ → ℕ, StrictMono A ∧
    HasPropertyP (range A) ∧
    ∀ jᶠ in atTop, (A j : ℝ) / j ≤ f j := by
```

Comment (shamEiNew) [reply FormalConjectures/ErdosProblems/1102.lean:67]: **Theorem 1.** on page 3 in [article ](https://arxiv.org/pdf/2512.01087).

(i) If  $A = \{a_1 < a_2 < \cdots\}$ has property $P$, then $A$ has natural density $0$.  
That is, $`a_j/j \to \infty `$ as $`j \to \infty `$

(ii) Conversely, for any function $` f : \mathbb{N} \to \mathbb{N} `$  that goes to infinity,  
there exists an infinite sequence  
$` A = \{a_1 < a_2 < \cdots\} `$  
with property $P$ such that $`\frac{a_j}{j} \le f(j) \quad \text{for all } j \in \mathbb{N}.`$


Note that (ii) is an *existence statement*: for any function $f$ with $`f(j)\to\infty`$, 
one can construct a strictly increasing sequence $A$ with property $P$ such that $`\frac{a_j}{j} \le f(j)`$ for all $`j`$. It does not assert that every sequence with property $`P`$ satisfies this bound. 
The paper explicitly constructs such a sequence using the Chinese Remainder Theorem 
and the fact that $f$ grows unbounded.

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1102.lean:67]: Yes, but as I have explained to you above there is no such sequence `A` for a function `f` that starts with 0, 0, 0, ... so they can't possibly have proved that! I suspect that they take $`\mathbb N = \{1, 2, \dots\}`$ while in Lean we have $`\mathbb N = \{0, 1, \dots\}`$

Comment (shamEiNew) [reply FormalConjectures/ErdosProblems/1102.lean:67]: yes you're correct they use $`\{\mathbb{N} = {1, 2, \cdots}\}`$ to be and the first element of sequence is 1. Should  we change all instances of $`\mathbb{N}`$ to  $`\mathbb{N}+`$ ?

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1102.lean:67]: Not all instances no, only when it changes the mathematics. In this specific instance, I would simply assume `\forall n, f n \ne 0`

Comment (shamEiNew) [reply FormalConjectures/ErdosProblems/1102.lean:67]: okay, fixed this in the latest commit. Thanks for pointing out the error!

File: FormalConjectures/ErdosProblems/1102.lean [hunk 23]
```diff
@@ -87,7 +88,7 @@ theorem erdos_1102.lower_density_Q_exists :
     ∃ A : ℕ → ℕ, StrictMono A ∧
     (∀ j, Squarefree (A j)) ∧
     HasPropertyQ (range A) ∧
-    Tendsto (fun j ↦ (j : ℕ) / ((A j) : ℝ )) atTop (𝓝 (6 / Real.pi^2)) := by
+    Tendsto (fun j : ℕ  ↦ (j / A j : ℝ )) atTop (𝓝 (6 / Real.pi^2)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1102.lean]:
```suggestion
    Tendsto (fun j : ℕ  ↦ (j / A j : ℝ)) atTop (𝓝 (6 / Real.pi^2)) := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks!
